US09290485B2
b) 1-(4-Methoxy-benzenesulfonyl)-1H-pyrrole-3-carboxylic acid (6-amino-2,4-dimethyl-pyridin-3-ylmethyl)-amide
To a mixture of (4,6-dimethyl-5-{[(1H-pyrrole-3-carbonyl)-amino]-methyl}-pyridin-2-yl)-carbamic acid tert-butyl ester (45 mg, 0.131 mmol) and 4-DMAP (6.38 mg, 0.052 mmol) in dry THF (0.8 ml) was added under argon atmosphere a 1.0 M solution of KOtBu in THF (0.196 ml, 0.196 mmol). The reaction mixture was stirred at it for 20 min. 4-Methoxy-benzenesulfonyl chloride (32.4 mg, 0.157 mmol) was added in one portion and the mixture was stirred for an additional 17 h at rt. The reaction mixture was diluted with MeOH (1 ml) and H2O (1 ml) and the resulting solution was filtered over a PTFE membrane (0.45 um). The filtrate was purified by a preparative LC-MS system using a Waters Sunfire™ C-18 OBD column [150×30 mm, 5 um particle size] and elution at 50 ml/min using the following gradient: 0-1.5 min (90% water containing 0.1% TFA/10% acetonitrile), 1.5-11.5 min (linear gradient from 90% water containing 0.1% TFA/10 acetonitrile to 35% water containing 0.1% TFA/65% acetonitrile), 11.5-12.5 min (linear gradient from 35% water containing 0.1% TFA/65% acetonitrile to 0% water containing 0.1% TFA/100% acetonitrile), 12.5-13.5 min (0% water containing 0.1% TFA/100% acetonitrile). Product collection was triggered by the MS signal and the resulting fractions were pooled and freeze-dried to yield a colorless powder. A 50% solution of TFA in DCM (1.0 ml) was added and the reaction mixture was stirred at rt for 2 h. After evaporation to dryness, the residue was dissolved in a mixture of acetonitrile/water and freeze-dried to yield the title compound. 1H-NMR (DMSO, 400 MHz): 13.52 (br s, 1H), 8.26 (t, 1H), 7.96-7.92 (m, 2H), 7.87-7.86 (m, 1H), 7.68 (br s, 2H), 7.37 (t, 1H), 7.19-7.16 (m, 2H), 6.67-6.66 (m, 1H), 6.63 (s, 1H), 4.26 (d, 2H), 3.85 (s, 3H), 2.50 (s, 3H), 2.37 (s, 3H); LCMS (Method T) RtT=0.88 min; [M+H]+=414.8.

reactant | (4,6-dimethyl-5-{[(1H-pyrrole-3-carbonyl)-amino]-methyl}-pyridin-2-yl)-carbamic acid tert-butyl ester | 0.131 mmol, 45 mg | C(C)(C)(C)OC(NC1=NC(=C(C(=C1)C)CNC(=O)C1=CNC=C1)C)=O | C18H24N4O3
reactant | KOtBu | CC(C)(C)[O-].[K+]
reactant | 4-Methoxy-benzenesulfonyl chloride | 0.157 mmol, 32.4 mg | COC1=CC=C(C=C1)S(=O)(=O)Cl | C7H7ClO3S
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
catalyst | 4-DMAP | 0.052 mmol, 6.38 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | THF | 0.8 ml | C1CCOC1 | C4H8O
solvent | MeOH | 1 ml | CO | CH4O
solvent | H2O | 1 ml | O | H2O
solvent | DCM | 1.0 ml | C(Cl)Cl | CH2Cl2
solvent | THF | 0.196 mmol, 0.196 ml | C1CCOC1 | C4H8O
product | 1-(4-Methoxy-benzenesulfonyl)-1H-pyrrole-3-carboxylic acid (6-amino-2,4-dimethyl-pyridin-3-ylmethyl)-amide | NC1=CC(=C(C(=N1)C)CNC(=O)C1=CN(C=C1)S(=O)(=O)C1=CC=C(C=C1)OC)C | C20H22N4O4S
